US04060528
To a stirred and cooled (0° C) mixture of 4.2 parts of thiophene, 13 parts of stannic chloride and 40 parts of methylene chloride is added dropwise a solution of 10.2 parts of p-(1-chloroethyl)benzoyl chloride in 20 parts of methylene chloride (exothermic reaction with gaseous hydrogen chloride evolution). After stirring for 2h.30 the reaction mixture is poured onto a mixture of crushed ice and hydrochloric acid solution. The product is extracted with methylene chloride. The organic layer is separated, washed with alkaline water, dried and evaporated. The solid residue is triturated with hot petroleumether. The product is filtered off and crystallized from ethanol, yielding p-(1-chloroethyl)phenyl 2-thienyl ketone.

reactant | thiophene | S1C=CC=C1 | C4H4S
reactant | p-(1-chloroethyl)benzoyl chloride | ClC(C)C1=CC=C(C(=O)Cl)C=C1 | C9H8Cl2O
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | p-(1-chloroethyl)phenyl 2-thienyl ketone | S1C(=CC=C1)C(=O)C1=CC=C(C=C1)C(C)Cl | C13H11ClOS
